US06953857B2
(ii) 4-Bromo-3-[2-(2,4-dichlorophenyl)-ethoxy]-5-ethoxy-benzoic acid
0.21 g (0.47 mmol) of 4-Bromo-3-[2-(2,4-dichlorophenyl)-ethoxy]-5-ethoxy-benzoic acid ethyl ester was dissolved in 6 ml of dioxan. 6 ml of water and 2N aqueous NaOH was added to the solution to give a pH of 13. The reaction solution was heated at 60° C. for 4 h and stirred at room temperature for 16 h. The reaction solution was cooled to 0° C. and concentrated hydrochloric acid was added to give a pH of 1-2, whereupon the product precipitated from solution. The suspension was stirred for 30 min, then the product was filtered off and dried under reduced pressure.

reactant | 4-Bromo-3-[2-(2,4-dichlorophenyl)-ethoxy]-5-ethoxy-benzoic acid ethyl ester | 0.47 mmol, 0.21 g | C(C)OC(C1=CC(=C(C(=C1)OCC)Br)OCCC1=C(C=C(C=C1)Cl)Cl)=O | C19H19BrCl2O4
reactant | water | 6 ml | O | H2O
reactant | NaOH | 2N | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | dioxan | 6 ml | O1CCOCC1 | C4H8O2
product | 4-Bromo-3-[2-(2,4-dichlorophenyl)-ethoxy]-5-ethoxy-benzoic acid | BrC1=C(C=C(C(=O)O)C=C1OCC)OCCC1=C(C=C(C=C1)Cl)Cl | C17H15BrCl2O4
